US08022209B2
Step D: Preparation of 2-piperazin-1-yl-4-thiophen-3-yl-[1,3,5]triazine
To a 0° C. solution of 4-(4-thiophen-3-yl-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (60 mg, 0.17 mmol) in CH2Cl2 (2 mL) was added TFA (1 mL) dropwise. The resulting solution was allowed to warm to room temperature and stirred overnight. The resulting mixture was concentrated, then re-dissolved in CH2Cl2 and concentrated. The residue was dissolved in a mixture of CH2Cl2/MeOH (4:1, 5 mL), neutralized with Na2CO3, and stirred at room temperature for 30 min. The resulting solid was filtered, washed with CH2Cl2, and the filtrate was concentrated to yield a yellow gummy solid, which was used without purification.

reactant | 4-(4-thiophen-3-yl-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=N1)C1=CSC=C1 | C16H21N5O2S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-piperazin-1-yl-4-thiophen-3-yl-[1,3,5]triazine | N1(CCNCC1)C1=NC=NC(=N1)C1=CSC=C1 | C11H13N5S
